US05248685
5-Benzyloxy-2-methoxyphenacyl 3-Pyridyl Ether
To 5-benzyloxy-2-methoxyphenacyl bromide (4.0 g, 0.0119 mol) in 80 ml of dry dimethylformamide was added 3-hydroxypyridine (1.24 g, 0.013 mol, 1.1 equiv) followed by NaH (50% in oil, 0.604 g, 1.1 equiv). After stirring for 18 hours under N2, the mixture was poured into 500 ml of ice and water, and extracted 2×500 ml ethyl acetate. The organic layers were combined, washed 2×500 ml H2O and 1×300 ml brine, dried (Na2SO4), stripped to an oil, and chromatographed on silica gel using 1:1 hexane:ethyl acetate as eluant to yield 1.07 g of present title product as a solid; IR(KBr) 1670 cm-1;MS 349 (M+); 1H-NMR (300 MHz, CDCl3) delta (ppm) 3.95 (s, 3H), 5.1 (s, 2H), 5.35 (s, 2H), 2.0 (d, 1 H), 7.2-7.5 (m, 8H), 7.6 (d, 1H), 8.3 (d, 1H), 8.4 (d, 1H).

reactant | 5-benzyloxy-2-methoxyphenacyl bromide | 0.0119 mol, 4.0 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(CBr)=O)C1)OC | C16H15BrO3
reactant | 3-hydroxypyridine | 0.013 mol, 1.24 g, 1.1 equiv | OC=1C=NC=CC1 | C5H5NO
reactant | NaH | 0.604 g, 1.1 equiv | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 5-Benzyloxy-2-methoxyphenacyl 3-Pyridyl Ether | 1.07 g | N1=CC(=CC=C1)OCC(=O)C1=C(C=CC(=C1)OCC1=CC=CC=C1)OC | C21H19NO4
